US20010056123A1
Step 1: Synthesis of 3-[4-cyano-2-(2-(4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoylamino)ethoxy)phenyl]acrylamide:
3.0 g (5.33 mmol) of ethyl 3-[4-cyano-2-(2-(4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoylamino)ethoxy)phenyl]acrylate was dissolved in 100 ml of ethanol. 15 ml of 1 N aqueous sodium hydroxide solution was added to the obtained solution, and they were stirred at room temperature overnight. The solvent was evaporated under reduced pressure. 1 N aqueous hydrochloric acid/ice solution was added to the obtained crude product, and they were treated with ethyl acetate as the extraction solvent in an ordinary manner to obtain the crude product. 30 ml of N,N-dimethylformamide, 0.75 g (5.55 mmol) of 1-hydroxybenzotriazole (hydrous), 1.40 g (25.2 mmol) of ammonium carbamate, 2 ml (0.015 mmol) of triethylamine and 2.12 g (11.09 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added to the crude product, and they were stirred overnight. After the evaporation of the solvent followed by the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the solvent was evaporated, and the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl 3-[4-cyano-2-(2-(4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoylamino)ethoxy)phenyl]acrylate | 5.33 mmol, 3.0 g | C(#N)C1=CC(=C(C=C1)C=CC(=O)OCC)OCCNC(C1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H37N3O7
reactant | sodium hydroxide | 1 N, 15 ml | [OH-].[Na+]
reactant | 1-hydroxybenzotriazole | 5.55 mmol, 0.75 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium carbamate | 25.2 mmol, 1.40 g | C(N)([O-])=O.[NH4+]
reactant | triethylamine | 0.015 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.09 mmol, 2.12 g | Cl.CN(CCCN=C=NCC)C
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-cyano-2-(2-(4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoylamino)ethoxy)phenyl]acrylamide | C(#N)C1=CC(=C(C=C1)C=CC(=O)N)OCCNC(C1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H34N4O6
